US05220018
3-Amino-N-(acetyl)phenylcarboxamide
3-Nitro-N-(acetyl)phenylcarboxamide (200 mg) was dissolved in 60 ml of ethanol, treated with 200 mg of 10% palladium/carbon catalyst, and hydrogenated on a Parr apparatus at 30 psi for 15 minutes. The reaction mixture was filtered through Celite and concentrated to give the title compound in quantitative yield as a white solid.

reactant | 3-Nitro-N-(acetyl)phenylcarboxamide | 200 mg | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)NC(C)=O | C9H8N2O4
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 200 mg | [Pd] | Pd
product | 3-Amino-N-(acetyl)phenylcarboxamide | quantitative yield | NC=1C=C(C=CC1)C(=O)NC(C)=O | C9H10N2O2
